US06797823B1
4-{[7-(Benzyloxy)-6-methoxy-4-quinolyl]oxy}-2,3-dimethylaniline
Sodium hydride (60 wt %, 0.32 g) was added to dimethyl sulfoxide (6 ml), and the mixture was stirred at room temperature for 30 min. 4-Amino-2,3-dimethylphenol (1.10 g) was then added thereto, and the mixture was stirred at room temperature for 10 min. Next, 7-(benzyloxy)-4-chloro-6-methoxyquinoline (1.20 g) was added thereto, and the mixture was stirred at 110° C. for 6 hr. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction solution, followed by extraction with chloroform. The chloroform layer was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by chromatography on silica gel by development with chloroform/acetone (6/1) to give 0.78 g (yield 49%) of the title compound.

reactant | Sodium hydride | 0.32 g | [H-].[Na+]
reactant | 4-Amino-2,3-dimethylphenol | 1.10 g | NC1=C(C(=C(C=C1)O)C)C | C8H11NO
reactant | 7-(benzyloxy)-4-chloro-6-methoxyquinoline | 1.20 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)Cl)OC | C17H14ClNO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethyl sulfoxide | 6 ml | CS(=O)C | C2H6OS
product | 4-{[7-(Benzyloxy)-6-methoxy-4-quinolyl]oxy}-2,3-dimethylaniline | 0.78 g, yield 49% | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=C(C(=C(N)C=C1)C)C)OC | C25H24N2O3
